US07989444B2
Preparation 85: 2-(1-methylethyl)-3,5,6,7,8,9-hexahydroazepino[4,5-f]isoindol-1(2H-one
To a solution of 1,1-dimethylethyl 1-hydroxy-2-(1-methylethyl)-3-oxo-2,3,5,6,8,9-hexahydroazepino[4,5-f]isoindole-7(1H)-carboxylate (1.0 g) and triethylsilane (0.95 ml) in DCM (20 ml), at 0° C., TFA (10 ml) was added dropwise and the mixture stirred for 1 h. the mixture was neutralized with 2M aqueous Na2CO3 and washed with ether discarding the organic layer. Then the aqueous layer was made basic with NaOH and extracted with DCM. The organic solution was washed with brine, dried over Na2SO4 and concentrated to afford a pale yellow solid (0.6 g, 88% yield).

reactant | 1,1-dimethylethyl 1-hydroxy-2-(1-methylethyl)-3-oxo-2,3,5,6,8,9-hexahydroazepino[4,5-f]isoindole-7(1H)-carboxylate | 1.0 g | OC1N(C(C=2C=C3C(=CC12)CCN(CC3)C(=O)OC(C)(C)C)=O)C(C)C | C20H28N2O4
reactant | triethylsilane | 0.95 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-(1-methylethyl)-3,5,6,7,8,9-hexahydroazepino[4,5-f]isoindol | 0.6 g, 88% yield | CC(C)N1CC=2C=C3C(=CC2C1)CCNCC3 | C15H22N2
